US07442791B2
A solution of 200 mg (0.53 mmol) trans-4-{[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-methyl}-cyclohexanecarboxylic acid and 125 mg (1.05 mmol, 2 eq) of thionyl chloride in 1 mL of dry CH2Cl2 were heated at 50° C. for 1 h, then evaporated and dissolved in 1 mL of CH2Cl2. This solution was added to 269 mg (2.54 mmol, 5 eq) of N,N,N′-trimethylethylenediamine in 1 mL of pyridine at 0° C. and stirred for 2 h at RT. Subsequently the reaction mixture was poured on a mixture of ice and water and extracted with 3 portions of 15 mL of CH2Cl2. The combined organic phases were washed with H2O, diluted HCl, saturated aqueous NaHCO3 solution and brine, then dried over anhydrous Na2SO4 and finally evaporated. The residue was chromatographed on silicagel with CH2Cl2:MeOH:25% NH4OH (9:1:0.1) as eluent. 195 mg (79.8%) of trans-4-{[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-methyl}-cyclohexanecarboxylic acid (2-dimethylamino-ethyl)-methyl-amide were obtained as colorless amorphous solid, MS: 464 (MH+).

reactant | trans-4-{[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-methyl}-cyclohexanecarboxylic acid | 0.53 mmol, 200 mg | CN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C[C@@H]1CC[C@H](CC1)C(=O)O | C16H20F3NO4S
reactant | thionyl chloride | 1.05 mmol, 125 mg, 2 eq | S(=O)(Cl)Cl | Cl2OS
reactant | N,N,N′-trimethylethylenediamine | 2.54 mmol, 269 mg, 5 eq | CN(CCNC)C | C5H14N2
reactant | water | O | H2O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | trans-4-{[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-methyl}-cyclohexanecarboxylic acid (2-dimethylamino-ethyl)-methyl-amide | 195 mg, 79.8% | CN(CCN(C(=O)[C@@H]1CC[C@H](CC1)CN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)C)C | C21H32F3N3O3S
